US07291619B2
1-Boc-4-[2-(3-isopropyl-ureido)-phenyl]-piperazine
To a solution of 1-Boc-4-(2-aminophenyl)-piperazine (270 mg, 1.0 mmol) in 10 mL of THF was added isopropyl isocyanate (90 uL, 1.46 mmol). After stirring for about 1 hour, another 90 microliter of isopropyl isocyanate was added. After stirring for about 3 days, another 290 microliter of isopropyl isocyanate was added. After stirring overnight, the solution was concentrated. Purification by silica gel chromatography (35 g SiO2, 20 to 50% EtOAc/hexanes, over 30 minutes at 35 mL/min) afforded about 240 mg (0.66 mmol, 66%) of the title compound as a white solid. LRMS: 363.2 (M+1)

reactant | 1-Boc-4-(2-aminophenyl)-piperazine | 1.0 mmol, 270 mg | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)N | C15H23N3O2
reactant | isopropyl isocyanate | 1.46 mmol, 90 uL | C(C)(C)N=C=O | C4H7NO
reactant | isopropyl isocyanate | 90 microliter | C(C)(C)N=C=O | C4H7NO
reactant | isopropyl isocyanate | 290 microliter | C(C)(C)N=C=O | C4H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-Boc-4-[2-(3-isopropyl-ureido)-phenyl]-piperazine | 0.66 mmol, about 240 mg, 66% | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)NC(=O)NC(C)C | C19H30N4O3
